US07282588B2
6-chloro-4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridine
Following the procedure described for Intermediate 6 with 4-bromo-6-chloro-1H-pyrrolo[2,3-b]pyridine and 1-ethyl-3-(4-nitrophenyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole afforded the title compound. ESMS [M+H]+: 368.2

reactant | 4-bromo-6-chloro-1H-pyrrolo[2,3-b]pyridine | BrC1=C2C(=NC(=C1)Cl)NC=C2 | C7H4BrClN2
reactant | 1-ethyl-3-(4-nitrophenyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | C(C)N1N=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=C(C=C1)[N+](=O)[O-] | C17H22BN3O4
product | 6-chloro-4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridine | ClC1=CC(=C2C(=N1)NC=C2)C=2C(=NN(C2)CC)C2=CC=C(C=C2)[N+](=O)[O-] | C18H14ClN5O2
